US05439917
3 -Methyl-7-(2-phenylethyl)pyrrolo[2,3-b ]pyridine hydrobromide.
A solution of 0.3 g (2.3 mmol) 3-methylpyrrolo[2,3-b]pyridine and 0.5 g (2.7 mmol) (2-bromoethyl)benzene in 10 ml acetonitril was refluxed for 72 h. The solvent was evaporated and the solid that formed was treated with ether. Recrystalization from ethyl acetate gave 0.2 g (27%) of the title compound as a white solid.

reactant | 3-methylpyrrolo[2,3-b]pyridine | 2.3 mmol, 0.3 g | CC1=CNC2=NC=CC=C21 | C8H8N2
reactant | (2-bromoethyl)benzene | 2.7 mmol, 0.5 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | ether | CCOCC | C4H10O
solvent | acetonitril | 10 ml | C(C)#N | C2H3N
product | 3 -Methyl-7-(2-phenylethyl)pyrrolo[2,3-b ]pyridine hydrobromide | 0.2 g, 27% | Br.CC1=CN=C2N(C=CC=C21)CCC2=CC=CC=C2 | InChI=1S/C16H16N2.BrH/c1-13-12-17-16-15(13)8-5-10-18(16)11-9-14-6-3-2-4-7-14;/h2-8,10,12H,9,11H2,1H3;1H
